US07345068B2
A mixture of 3,5-dichloro-N-trifluoroacetyl-O-[(6-methoxy)-2-naphthyl]-L-tyrosine methyl ester (160 mg, 0.31 mmol), 47% hydrobromic acid (3 ml) and acetic acid (2 ml) was heated under reflux for 5 hrs. The reaction mixture was diluted with water (10 ml), adjusted to pH 4-5 with 4N sodium hydroxide under ice cooling and then stirred at room temperature for 30 min. The precipitates were collected by filtration, washed with water and dried under reduced pressure to give 3,5-dichloro-O-[(6-hydoxy)-2-naphthyl]-L-tyrosine (92 mg, 76%) as a pale orange powder.

reactant | 3,5-dichloro-N-trifluoroacetyl-O-[(6-methoxy)-2-naphthyl]-L-tyrosine methyl ester | 0.31 mmol, 160 mg | COC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=C(C(=C1)Cl)OC1=CC2=CC=C(C=C2C=C1)OC)Cl)=O | C23H18Cl2F3NO5
reactant | hydrobromic acid | 3 ml | Br | BrH
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 3,5-dichloro-O-[(6-hydoxy)-2-naphthyl]-L-tyrosine | 92 mg, 76% | ClC=1C=C(C[C@H](N)C(=O)O)C=C(C1OC1=CC2=CC=C(C=C2C=C1)O)Cl | C19H15Cl2NO4
